US07858621B2
3-(2-Diethylamino-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methanesulfonylamino-benzyl)-acrylamide
3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methane sulfonylamino-benzyl)-acrylamide (27 mg, 0.06 mmol) was reacted with diethylamine (5 eq) to give the title compound (14 mg, 48%).

reactant | 3-(2-Chloro-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methane sulfonylamino-benzyl)-acrylamide | 0.06 mmol, 27 mg | ClC1=NC(=CC=C1C=CC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F)C(F)(F)F | C17H14ClF4N3O3S
reactant | diethylamine | 5 eq | C(C)NCC | C4H11N
product | 3-(2-Diethylamino-6-trifluoromethyl-pyridin-3-yl)-N-(3-fluoro-4-methanesulfonylamino-benzyl)-acrylamide | 14 mg, 48% | C(C)N(C1=NC(=CC=C1C=CC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F)C(F)(F)F)CC | C21H24F4N4O3S
